US08445118B2
(11) Vanadium Catecholate (Molecular Weight: 213)
A solution of catechol (3.30 g, 30 mmol) and xylene (45 ml) was dehydrated by distilling 5 mL of the solution. Thereafter, 6.97 g (20 mmol) of vanadium(III) acetylacetonate was added to the solution while stirring. The mixed solution was refluxed for 1 hour, and then, while the distillation temperature was 132° C. or higher, distilled until the amount of the solution became half. After the distillation, solid content of the product was isolated by suction filtering using a membrane suction filter. The residual solid content was heated to 100° C. under vacuum using a vacuum dryer so that remaining volatile components were completely removed. The solid content (catechol-vanadium complex) was black in color. The yield amount was 4.26 g (20.0 mmol), and the yield percentage was 100%. Catechol-vanadium complex was dissolved into acetylacetone until saturated, and then filtered to be used as a coating liquid.

reactant | catechol | 30 mmol, 3.30 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | vanadium(III) acetylacetonate | 20 mmol, 6.97 g | C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.C/C(=C/C(=O)C)/O.[V]
solvent | xylene | 45 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Vanadium Catecholate | C=1([O-])C([O-])=CC=CC1.[V+5].C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.C=1([O-])C([O-])=CC=CC1.[V+5] | InChI=1S/5C6H6O2.2V/c5*7-5-3-1-2-4-6(5)8;;/h5*1-4,7-8H;;/q;;;;;2*+5/p-10
